US04725601
To a solution of 2-methylbenzyl alcohol (0.985 g) in N,N-dimethylformamide (10 ml) was added 62.8% sodium hydride (0.308 g) under a nitrogen atmosphere and then stirred for 30 minutes. 2-Amino-3-chloropyrazine (0.87 g) was added to the solution and the mixture was heated at 65° C. for 2 hours and poured onto crushed ice. The resulting precipitates were collected by filtration, washed with n-hexane, and dried in a desiccator to give 2-amino-3-(2-methylbenzyloxy)pyrazine (0.6 g).

reactant | 2-methylbenzyl alcohol | 0.985 g | CC1=C(CO)C=CC=C1 | C8H10O
reactant | sodium hydride | 0.308 g | [H-].[Na+]
reactant | 2-Amino-3-chloropyrazine | 0.87 g | NC1=NC=CN=C1Cl | C4H4ClN3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-amino-3-(2-methylbenzyloxy)pyrazine | 0.6 g | NC1=NC=CN=C1OCC1=C(C=CC=C1)C | C12H13N3O
